US07384931B2
(S)-methyl 2-(1, 4-dibromo-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3, 4-e]indazol-7-yl)acetate.
(S)-Dimethyl 2-((3,7-dibromo-4-(hydroxymethyl)-1H-indazol-5-yl)methyl)succinate (460 mg, 0.991 mmol) was dissolved in thionyl chloride (2.0 M. in dichloromethane) (496 μl, 0.992 mmol). Reaction stirred at room temperature for 4 hours. Mixture was concentrated by roto-vap. Residue was dissolved in ethyl acetate. Material was washed twice with aqueous sodium bicarbonate and the aqueous phase was discarded. Organics were dried MgSO4, filtered and then concentrated to dryness. Residue (415 mg, 0.860 mmol) was dissolved in acetonitrile (15 mL). Potassium carbonate (165 mg, 1.194 mmol) was added to the mixture followed by 2,2,2-trifluoroethylamine (350 μl, 4.40 mmol). Mixture was warmed to reflux and held with stirring for 30 minutes. Mixture was cooled to room temperature. Mixture was filtered over celite. Filtrate was concentrated by roto-vap. Residue was dissolved in toluene (17 mL). Acetic acid (200 μl, 3.49 mmol) was added to the mixture. Reaction was warmed to reflux and held with stirring for 16 hours. Mixture was cooled to room temperature and then diluted with ethyl acetate. Mixture was washed with aqueous sodium bicarbonate and the aqueous phase was discarded. Organics were dried MgSO4, filtered and then concentrated to dryness. Silica gel chromatography eluting ethyl acetate-hexanes afforded the title compound as white solid in 45% yield. MS (M−H)−=512.1, 510.1, 514.1.

reactant | (S)-Dimethyl 2-((3,7-dibromo-4-(hydroxymethyl)-1H-indazol-5-yl)methyl)succinate | 0.991 mmol, 460 mg | BrC1=NNC2=C(C=C(C(=C12)CO)C[C@H](C(=O)OC)CC(=O)OC)Br | C15H16Br2N2O5
reactant | thionyl chloride | 0.992 mmol, 2.0 M, 496 μl | S(=O)(Cl)Cl | Cl2OS
reactant | Potassium carbonate | 1.194 mmol, 165 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2,2-trifluoroethylamine | 4.40 mmol, 350 μl | FC(CN)(F)F | C2H4F3N
reactant | Acetic acid | 3.49 mmol, 200 μl | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-methyl 2-(1, 4-dibromo-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3, 4-e]indazol-7-yl)acetate | 45% yield | BrC1=NNC=2C(=CC3=C(C12)CN(C([C@@H](C3)CC(=O)OC)=O)CC(F)(F)F)Br | C16H14Br2F3N3O3
